US04337341
Following the procedure outlined in Example 28, 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine was acylated with cyclopropanecarboxylic acid chloride to provide 4a-phenyl-2-cyclopropanecarbonyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine. Reduction of the acylated pyrindine intermediate by reaction with lithium aluminium hydride afforded the corresponding 2-alkyl pyrindine, which when reacted with hydrobromic acid provided 4a-phenyl-2-cyclopropylmethyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindinium bromide. M.P. 240°-241° C.

reactant | 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCNCC2CCC1 | C14H19N
reactant | cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 4a-phenyl-2-cyclopropanecarbonyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCN(CC2CCC1)C(=O)C1CC1 | C18H23NO
